US07790756B2
To a stirring suspension of 2-(benzyloxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-6-ylboronic acid (0.640 g, 2.06 mmol, 1.00 eq) and 4 ÅMS (0.64 g) in CH2Cl2 (20 ml) was added pyridine (0.168 ml, 2.06 mmol, 1.00 eq) followed by ethyl 3-t-butyl-1H-pyrazole-5-carboxylate (0.404 g, 2.06 mmol, 1.00 eq) and Cu(OAc)2 (0.374 g, 2.06 mmol, 1.00 eq). The resulting blue-green mixture was stirred at 25° C. After 40 h, the mixture was diluted with H2O and decanted away from the molecular sieves. The layers were separated and the organic phase was washed with H2O (2×). The combined aqueous phases were extracted with CH2Cl2 (1×). The combined organic phases were dried (MgSO4), concentrated in vacuo and purified by flash chromatography (EtOAc/hexanes) to afford benzyl 6-(3-t-butyl-5-(ethoxycarbonyl)-1H-pyrazol-1-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (0.46 g, 48% yield). 1H NMR (400 MHz, DMSO-d6) δ 7.41-7.28 (m, 5H), 7.24-7.20 (m, 3H), 6.96 (s, 1H), 5.15 (s, 2H), 4.67 (brm, 2H), 4.17 (q, 2H, J=7.2 Hz), 3.66 (brs, 2H), 2.86 (t, 2H, J=6.0 Hz), 1.29 (s, 9H), 1.18 (t, 3H, J=7.2 Hz); MS (ESI) m/z: 462.3 (M+H+).

reactant | 2-(benzyloxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-6-ylboronic acid | 2.06 mmol, 0.640 g, 1.00 eq | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=C(C=C2CC1)B(O)O | C17H18BNO4
reactant | pyridine | 2.06 mmol, 0.168 ml, 1.00 eq | N1=CC=CC=C1 | C5H5N
reactant | ethyl 3-t-butyl-1H-pyrazole-5-carboxylate | 2.06 mmol, 0.404 g, 1.00 eq | C(C)(C)(C)C1=NNC(=C1)C(=O)OCC | C10H16N2O2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
catalyst | Cu(OAc)2 | 2.06 mmol, 0.374 g, 1.00 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | benzyl 6-(3-t-butyl-5-(ethoxycarbonyl)-1H-pyrazol-1-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.46 g, 48% yield | C(C)(C)(C)C1=NN(C(=C1)C(=O)OCC)C=1C=C2CCN(CC2=CC1)C(=O)OCC1=CC=CC=C1 | C27H31N3O4
